US05173493
To a solution of diisopropylamine (395 mg) in tetrahydrofuran (5 ml) at -70° C. under a nitrogen atmosphere was added 1.64M butyllithium in hexane (2.62 ml). After being stirred at the same temperature for 20 minutes, the mixture was treated with a solution of 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (1.61 g) in tetrahydrofuran (5 ml) over 15 minutes. The mixture was stirred at -65° C. for 30 minutes and at -30°~-40° C. for 30 minutes and a solution of allyl bromide (363 mg) in tetrahydrofuran (5 ml) was added dropwise at -65° C. over 10 minutes. After the mixture was stirred at -65° C. for 1 hour, at -20° C. for 1 hour and at ambient temperature for 1 hour. The resultant mixture was washed with water (10 ml×2) and brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. Purification of the residue with silica gel column chromatography (5% ethyl acetate-chloroform) gave 7-allyl-8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (1.15 g).

reactant | diisopropylamine | 395 mg | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.64M | C(CCC)[Li]
reactant | 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 1.61 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H33N3O
reactant | allyl bromide | 363 mg | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.62 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-allyl-8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 1.15 g | C(C=C)C1(CCC=2N(C3=CC=CC=C3C2C)C1=O)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H37N3O
